US05308863
5,6-Dihydro-4-ethylamino-6-(2-methoxyethyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide
To a stirred solution of 4-acetamido-5,6-dihydro-6-(2-methoxyethyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide (4.4 g, 0.0115 mol) in tetrahydrofuran (45 ml) under nitrogen and heated to reflux was added borane dimethylsulfide complex (5 ml, 0.05 mol of a 10 M complex) over about 20 minutes. Stirring was continued at reflux for 3 hours, then at room temperature overnight and another 5 hours and then concentrated in vacuo at room temperature. Methanol (50 ml) was carefully added to the white residue. The resulting solution was saturated with anhydrous HCl gas and then was stirred at reflux for 1 hour. The solution was concentrated in vacuo and the residue was taken up in ethyl acetate (50 ml) and saturated sodium bicarbonate (20 ml). The ethyl acetate solution was separated and washed with saturated NaCl, dried, filtered and concentrated in vacuo. The procedure gave a mixture of cis and trans isomers (3.2 g) as a white gummy foam which was chromatographed on silica gel (300 g) using 7.5% methanol-chloroform. Mixed fractions (0.87 g) were chromatographed again using 5% methanol-ether. There was obtained 1.62 g of the a-isomer, mp 132°-134° C. and 0.35 g of the β-isomer, mp 167°-169° C. The hydrochloride salts of the α (trans) and β-isomer (cis) racemates were prepared using ethanolic-HCl and diluting with ether. MP's were 173°-175° C. and 264.5°-266° C., respectively.

reactant | 4-acetamido-5,6-dihydro-6-(2-methoxyethyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 0.0115 mol, 4.4 g | C(C)(=O)NC1C2=C(S(C(C1)CCOC)(=O)=O)SC(=C2)S(=O)(=O)N | C12H18N2O6S3
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5,6-Dihydro-4-ethylamino-6-(2-methoxyethyl)-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | C(C)NC1C2=C(S(C(C1)CCOC)(=O)=O)SC(=C2)S(=O)(=O)N | C12H20N2O5S3
